US04062861
Dimethyl pyrocarbonate (4.02 g) is added to 3-amino-5-t-butylisoxazole (2.80 g), and the resulting mixture is stirred at room temperature for 40 minutes and 1 hour, then stirred at 65° C for 3 hours. Dimethyl pyrocarbonate (1.34 g) is still added, and the resulting mixture is stirred at 65° C for 1 hour. The reaction mixture is cooled to room temperature, allowed to stand overnight and evaporated under reduced pressure. The residue (4.02 g) is recrystallized from hexane to give methyl N-(5-t-butyl-3-isoxazolyl)carbamate as crystals melting at 55.5° to 58.5° C.

reactant | Dimethyl pyrocarbonate | 4.02 g | C(OC)(=O)OC(=O)OC | C4H6O5
reactant | 3-amino-5-t-butylisoxazole | 2.80 g | NC1=NOC(=C1)C(C)(C)C | C7H12N2O
reactant | Dimethyl pyrocarbonate | 1.34 g | C(OC)(=O)OC(=O)OC | C4H6O5
product | methyl N-(5-t-butyl-3-isoxazolyl)carbamate | C(C)(C)(C)C1=CC(=NO1)NC(OC)=O | C9H14N2O3
